US08193214B2
4-(3-Naphthalen-1-ylmethyl-2,3-dihydro-imidazo[1,2-a]pyridin-2-ylsulfanyl)-butyric acid methyl ester
A mixture of 75 mg (0.26 mmol) of 3-naphthalen-1-ylmethyl-imidazo[1,2-a]pyridine-2-thione and 70 mg (0.39 mmol) of methyl 4-bromobutyrate and 72 mg (0.52 mmol) of potassium carbonate in 3 mL of 50% acetone in dichloromethane is stirred at room temperature for 18 h. The mixture is concentrated in vacuo and the residue is purified by flash chromatography on silica gel eluting with 50˜75% ethyl acetate in hexanes to give the desired compound.

reactant | 3-naphthalen-1-ylmethyl-imidazo[1,2-a]pyridine-2-thione | 0.26 mmol, 75 mg | C1(=CC=CC2=CC=CC=C12)CC1C(N=C2N1C=CC=C2)=S | C18H14N2S
reactant | methyl 4-bromobutyrate | 0.39 mmol, 70 mg | BrCCCC(=O)OC | C5H9BrO2
reactant | potassium carbonate | 0.52 mmol, 72 mg | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 3 mL | CC(=O)C | C3H6O
solvent | dichloromethane | ClCCl | CH2Cl2
product | 4-(3-Naphthalen-1-ylmethyl-2,3-dihydro-imidazo[1,2-a]pyridin-2-ylsulfanyl)-butyric acid methyl ester | COC(CCCSC1N=C2N(C=CC=C2)C1CC1=CC=CC2=CC=CC=C12)=O | C23H24N2O2S
